US07368578B2
A mixture of 4-ethyl 1-tert-butyl 3-(methoxymethoxy)-1H-pyrazole-1,4-dicarboxylate (3.52 g), lithium hydroxide monohydrate (1.47 g), tetrahydrofuran (60 mL), methanol (30 mL) and water (30 mL) was stirred at room temperature for hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:9-4:1, v/v) to give ethyl 3-(methoxymethoxy)-1H-pyrazole-4-carboxylate as a colorless solid (1.80 g, yield 77%).

reactant | 4-ethyl 1-tert-butyl 3-(methoxymethoxy)-1H-pyrazole-1,4-dicarboxylate | 3.52 g | COCOC1=NN(C=C1C(=O)OCC)C(=O)OC(C)(C)C | C13H20N2O6
reactant | lithium hydroxide monohydrate | 1.47 g | O.[OH-].[Li+]
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | methanol | 30 mL | CO | CH4O
solvent | Water | O | H2O
solvent | water | 30 mL | O | H2O
product | ethyl 3-(methoxymethoxy)-1H-pyrazole-4-carboxylate | 1.80 g, yield 77% | COCOC1=NNC=C1C(=O)OCC | C8H12N2O4
